US05252251
Synthesis of 4-(6-acryloyloxyhexyloxy)benzoic acid (1c)
4.8 g of 4-(6-hydroxyhexyloxy)benzoic acid and 5.8 g of acrylic acid were heat-refluxed for 40 hours together with 1 ml of sulfuric acid in the presence of hydroquinone in benzene, followed by distilling-off of the solvent and recrystallization to obtain 3.2 g of the product. (Yield: 55 %)

reactant | 4-(6-hydroxyhexyloxy)benzoic acid | 4.8 g | OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C13H18O4
reactant | acrylic acid | 5.8 g | C(C=C)(=O)O | C3H4O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-(6-acryloyloxyhexyloxy)benzoic acid | 3.2 g, Yield: 55 % | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
